* Schematics Netlist *



R_R1         $N_0002 $N_0001  560  
I_I1         0 $N_0001 DC 10mA  
D_D1         $N_0002 0 D1N4002 
R_R6         $N_0004 $N_0003  560  
I_I6         0 $N_0003 DC 10mA  
D_D4         $N_0004 0 D1N750 
R_R2         $N_0006 $N_0005  560  
I_I2         0 $N_0005 DC 10mA  
I_I3         $N_0006 0 DC -2.158  
R_R3         $N_0006 0  347m  
R_R7         $N_0008 $N_0007  560  
I_I7         0 $N_0007 DC 10mA  
I_I8         $N_0008 0 DC -2.0822  
R_R8         $N_0008 0  359m  
R_R4         $N_0010 $N_0009  560  
I_I4         0 $N_0009 DC 10mA  
R_R5         $N_0010 0  909m  
I_I5         $N_0010 0 DC -0.7722  
R_R9         $N_0012 $N_0011  560  
I_I9         0 $N_0011 DC 10mA  
R_R10         $N_0012 0  2.5527  
I_I10         $N_0012 0 DC -0.241  
